US06323197B1
5-(4-Nitrophenyl)-1,3-dioxolo[4,5-g]-isochroman
36.0 g (0.21 mol) of 2-(1,3-benzodioxol-5-yl)-ethanol is reacted with an equivalent amount of 4-nitrobenzaldehyde analogously to C.A. 105, 1986, 226357, and 50.7 g (81%) of the title compound, melting point 149-150° C. (ethanol), is obtained.

reactant | 2-(1,3-benzodioxol-5-yl)-ethanol | 0.21 mol, 36.0 g | O1COC2=C1C=CC(=C2)CCO | C9H10O3
reactant | 4-nitrobenzaldehyde | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
solvent | ethanol | C(C)O | C2H6O
product | 5-(4-Nitrophenyl)-1,3-dioxolo[4,5-g]-isochroman | 50.7 g, 81% | [N+](=O)([O-])C1=CC=C(C=C1)C1OCCC=2C=C3C(=CC12)OCO3 | C16H13NO5
